US09029370B2
To a stirred solution of 4-bromo-3-chlorobenzoyl chloride (11 g, CAS 21900-32-3) in acetonitrile (50 ml) and THF (50 ml) at 0-5° C. was added dropwise (trimethylsilyl)diazomethane (26.0 ml, 2 M solution in diethyl ether). The reaction mixture was stirred at room temperature for 30 min. TLC analysis showed the reaction was complete. Hydrochloric acid (7.22 ml, 37% aq.) was then added dropwise at 0-5° C. over 10 minutes and the reaction mixture was then stirred at room temperature for a further 20 minutes. The reaction mixture was poured into EtOAc and extracted sequentially with aq. Na2CO3 solution, water and saturated brine. The organic layer was then dried over Na2SO4 and concentrated in vacuo to afford 1-(4-bromo-3-chlorophenyl)-2-chloroethanone (11.0 g, 95%) as a light brown solid which was used in the next step without further purification. MS (EI): 221 ([{81Br37Cl}M-CH2Cl]+), 219 ([{79Br37Cl/81Br35Cl}M-CH2Cl]+), 217 ([{79Br35Cl}M-CH2Cl]+), 193 ([{81Br37Cl}M-CH2Cl—CO]+), 191 ([{79Br37Cl/81Br35Cl}M-CH2Cl—CO]+), 189 ([{79Br35Cl}M-CH2Cl—CO]+).

reactant | 4-bromo-3-chlorobenzoyl chloride | 11 g | BrC1=C(C=C(C(=O)Cl)C=C1)Cl | C7H3BrCl2O
reactant | (trimethylsilyl)diazomethane | 2 M, 26.0 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | Hydrochloric acid | 7.22 ml | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-(4-bromo-3-chlorophenyl)-2-chloroethanone | 11.0 g, 95% | BrC1=C(C=C(C=C1)C(CCl)=O)Cl | C8H5BrCl2O
